US09260420B2
Synthesis of carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester cyclohexyl ester hydrochloride
Sodium hydride (55% oil) (0.962 g, 22.04 mmol) was suspended in tetrahydrofuran (THF) (200 ml), 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one (8.31 g, 19.17 mmol) was added and the mixture was stirred at 50° C. for 1 hr. The mixture was cooled to 0° C., chloromethyl cyclohexyl carbonate (4.80 g, 24.92 mmol) was added dropwise and the mixture was stirred at room temperature overnight. After cooling to 0° C., excess 2N hydrochloric acid was added to quench the reaction. The precipitated solid was collected by filtration and dried. In addition, the filtrate was extracted with ethyl acetate. The organic layer was concentrated and purified by moderate-pressure silica gel column chromatography (methylene chloride:methanol=100:0 to 20:1). Likewise, the solid was purified by moderate-pressure silica gel column chromatography. Concentration under reduced pressure gave the title compound (yield, 5.04 g, 42%) as a white solid.

reactant | Sodium hydride | 22.04 mmol, 0.962 g | [H-].[Na+]
reactant | 7-[4-(4-benzo[b]thiophen-4-yl-piperazin-1-yl)-butoxy]-1H-quinolin-2-one | 19.17 mmol, 8.31 g | S1C2=C(C=C1)C(=CC=C2)N2CCN(CC2)CCCCOC2=CC=C1C=CC(NC1=C2)=O | C25H27N3O2S
reactant | chloromethyl cyclohexyl carbonate | 24.92 mmol, 4.80 g | C(OCCl)(OC1CCCCC1)=O | C8H13ClO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | carbonic acid 7-[4-(4-benzo[b]thiophen-4-ylpiperazin-1-yl)butoxy]-2-oxo-2H-quinolin-1-ylmethyl ester cyclohexyl ester hydrochloride | 5.04 g, 42% | Cl.C1(CCCCC1)OC(OCN1C(C=CC2=CC=C(C=C12)OCCCCN1CCN(CC1)C1=CC=CC=2SC=CC21)=O)=O | InChI=1S/C33H39N3O5S.ClH/c37-32-14-12-25-11-13-27(23-30(25)36(32)24-40-33(38)41-26-7-2-1-3-8-26)39-21-5-4-16-34-17-19-35(20-18-34)29-9-6-10-31-28(29)15-22-42-31;/h6,9-15,22-23,26H,1-5,7-8,16-21,24H2;1H
